US05283361
E. 1-[2-(4-fluorophenylthio)-6-fluorophenyl]prop-2-en-1-ol
2-(4-fluorophenylthio)-6-fluorobenzaldehyde (2.06 g, 8.23 mmol) is dissolved in 21 ml of dry THF and cooled to -78° C. Vinylmagnesium bromide solution (12.4 ml of a 1.0M solution in THF) is then added dropwise and the reaction mixture is allowed to warm to room temperature. The reaction mixture is then poured into saturated NH4Cl and extracted twice with diethyl ether. The extracts are washed with water and then brine and dried over K2CO3 to afford the subtitle compound.

reactant | 2-(4-fluorophenylthio)-6-fluorobenzaldehyde | 8.23 mmol, 2.06 g | FC1=CC=C(C=C1)SC1=C(C=O)C(=CC=C1)F | C13H8F2OS
reactant | Vinylmagnesium bromide | C(=C)[Mg]Br
reactant | NH4Cl | [NH4+].[Cl-]
solvent | THF | 21 ml | C1CCOC1 | C4H8O
product | 1-[2-(4-fluorophenylthio)-6-fluorophenyl]prop-2-en-1-ol | FC1=CC=C(C=C1)SC1=C(C(=CC=C1)F)C(C=C)O | C15H12F2OS
